US04281000
3-(Methoxymethyl)-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine
To a mixture of 0.01 mole of 7-(3-pyridyl)pyrazolo-[1,5-a]pyrimidine-3-methanol in 50 ml. of methanol is added anhydrous hydrochloric acid in 10 ml. of methanol. The mixture is heated on a steam bath for 3 hours and the solvent removed. The residue is partitioned between dichloromethane and aqueous sodium bicarbonate. The dichloromethane solution is dried over magnesium sulfate, concentrated and diluted with hexane to give the product of the example.

reactant | 7-(3-pyridyl)pyrazolo-[1,5-a]pyrimidine-3-methanol | 0.01 mole | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2CO | C12H10N4O
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | CO | CH4O
product | 3-(Methoxymethyl)-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine | COCC=1C=NN2C1N=CC=C2C=2C=NC=CC2 | C13H12N4O
